US04755212
Preparation of 2-(2-chloro-4-trifluoromethylphenoxy)-6-fluoro nitrobenzene
This material was prepared in 47% yeild from 2,6-difluoronitrobenzene and 2-chloro-4-trifluoromethylphenol following the general procedure outlined in Example 88. The product was isolated as an oil which was characterized by IR and 1H NMR spectroscopy.

reactant | 2,6-difluoronitrobenzene | FC1=C(C(=CC=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | 2-chloro-4-trifluoromethylphenol | ClC1=C(C=CC(=C1)C(F)(F)F)O | C7H4ClF3O
product | 2-(2-chloro-4-trifluoromethylphenoxy)-6-fluoro nitrobenzene | ClC1=C(OC2=C(C(=CC=C2)F)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C13H6ClF4NO3
